US07855194B2
(4,6-Dimethoxy-pyrimidin-2-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(4,6-dimethoxy-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.97 g, 5.82 mmol) in ethanol (50 mL) and 4 M HCl in dioxane (75 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 239.1 [M+H]+.

reactant | 4-(4,6-dimethoxy-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 5.82 mmol, 1.97 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=CC(=N1)OC)OC | C16H26N4O4
reactant | HCl | 4 M | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | (4,6-Dimethoxy-pyrimidin-2-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.COC1=NC(=NC(=C1)OC)NC1CCNCC1 | InChI=1S/C11H18N4O2.2ClH/c1-16-9-7-10(17-2)15-11(14-9)13-8-3-5-12-6-4-8;;/h7-8,12H,3-6H2,1-2H3,(H,13,14,15);2*1H
